US06333358B1
A solution of 0.22 ml of oxalyl chloride in 13.5 ml of dichloromethane was cooled to −70° C. or below on dry-ice-acetone, and a solution of 0.24 ml of dimethyl sulfoxide in 0.9 ml of dichloromethane was added dropwise, followed by stirring for 10 minutes. To this was added dropwise a solution of 0.48 g of N-acetyl-N-[2-(1-hydroxyethyl)benzyl]-2-phenoxyaniline in 4.5 ml of dichloromethane, and the temperature of the reaction solution was gradually raised to −45° C., followed by stirring at the same temperature for an hour. To the reaction solution was added dropwise 1.34 ml of triethylamine at −40° C. or below, followed by stirring at 0° C. for 20 minutes. The reaction solution, after addition of a saturated aqueous ammonium chloride solution, was extracted with ethyl acetate, and the extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:1) and recrystallized from ethyl acetate-hexane to give 0.41 g of N-acetyl-N-(2-acetylbenzyl)-2-phenoxyaniline.

reactant | oxalyl chloride | 0.22 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.24 ml | CS(=O)C | C2H6OS
reactant | N-acetyl-N-[2-(1-hydroxyethyl)benzyl]-2-phenoxyaniline | 0.48 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)C(C)O | C23H23NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 13.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.9 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4.5 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.34 ml | C(C)N(CC)CC | C6H15N
product | N-acetyl-N-(2-acetylbenzyl)-2-phenoxyaniline | 0.41 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)C(C)=O | C23H21NO3
